US07307086B2
8-Pyrimidin-2-yl-1,4-dioxa-spiro[4.5]decan-8-ol
To a solution of 2-bromopyrimidine (0.20 g, 1.258 mmol) in dry methylene chloride (3.0 mL) was dropwise added 1.6 M of n-butyllithium in hexane (0.86 mL) at −78° C. The reaction mixture was stirred for 29 min at −78° C. and 1,4-dioxa-spiro[4.5]decan-8-one (0.196 g, 1.26 mmol) in CH2Cl2(3 mL) was added dropwise. The reaction was stirred at −78° C. for 50 min and quenched with an aqueous solution of NH4Cl. After being warmed to room temperature, the mixture was extracted with CH2Cl2 three times. The combined extracts were dried over MgSO4, filtered and concentrated in vacuo to provide 0.50 g of crude product. Purification by column chromatography on silica gel eluting with 0->50% EtOAc in hexanes provided 0.159 g (54%) of desired product as a light brown-yellow solid. MS (M+H)+237.2.

reactant | 2-bromopyrimidine | 1.258 mmol, 0.20 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | 1,4-dioxa-spiro[4.5]decan-8-one | 1.26 mmol, 0.196 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | 0.86 mL | CCCCCC | C6H14
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 8-Pyrimidin-2-yl-1,4-dioxa-spiro[4.5]decan-8-ol | 0.159 g, 54% | N1=C(N=CC=C1)C1(CCC2(OCCO2)CC1)O | C12H16N2O3
